US05239113
Step 1 Preparation of 4-[[4-(aminoiminomethyl)phenyl]-amino]-5-oxopentanoic acid
4-Aminobenzamidine di-HCl (1 g, 4.8 mmol) was added to dry DMF (20 mL). To this solution dry pyridine (5 mL) and glutaric anhydride (0.68 g, 5.3 mmol) followed by 10 mg dimethylaminopyridine (DMAP) were added. The product started to precipitate after heating for 1/2h at 100° C. Heating was continued for 2 hr and water (25 mL) was added after cooling to room temperature. An abundant precipitate was filtered and dried in a desiccator to give 0.8 g, 50% of product as a white solid: H NMR (d6 -DMSO) δ 1.95 (m, 2H), 2.4 (m, 2H), 2.5 (m, 2H), 7.85 (s, 4H), 9.05 (bs, 2H), 9.25 (bs, 2H), 10.4 (s, 1H), MS(FAB) m/e 250.1 (M+H+).

reactant | 4-Aminobenzamidine di-HCl | 4.8 mmol, 1 g | Cl.Cl.NC1=CC=C(C(=N)N)C=C1
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | glutaric anhydride | 5.3 mmol, 0.68 g | C1(CCCC(=O)O1)=O | C5H6O3
catalyst | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-[[4-(aminoiminomethyl)phenyl]-amino]-5-oxopentanoic acid | 0.8 g, 50% | NN=CC1=CC=C(C=C1)NC(CCC(=O)O)C=O | C12H15N3O3
